US04051248
B. 1-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-4-anilino isonipecotamide, hydrochloride (1:1)
Finely-ground 1-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)-methyl]-4-anilino isonipecotamide (5.0 g) is slurried in absolute ethanol and treated with 1.2 equivalents of ethereal hydrogen chloride. The resulting mixture is cooled and filtered to yield the title compound.

reactant | 1-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)-methyl]-4-anilino isonipecotamide | 5.0 g | O=C1C(CCC2=CC=CC=C12)CN1CCC(C(=O)N)(CC1)NC1=CC=CC=C1 | C23H27N3O2
reactant | hydrogen chloride | 1.2 equivalents | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-4-anilino isonipecotamide, hydrochloride | Cl.O=C1C(CCC2=CC=CC=C12)CN1CCC(C(=O)N)(CC1)NC1=CC=CC=C1 | InChI=1S/C23H27N3O2.ClH/c24-22(28)23(25-19-7-2-1-3-8-19)12-14-26(15-13-23)16-18-11-10-17-6-4-5-9-20(17)21(18)27;/h1-9,18,25H,10-16H2,(H2,24,28);1H
